US04841051
A mixture comprising of 1.63 g 2H-3,1-benzoxazine-2,4-(1H)-dione, 1.78 g of ethyl orthoformate and 2.49 g of 4-(2-ethoxyphenyl)-1-(2-aminoethyl)piperazine was heated on a boiling water bath for about 10 minutes and further heated on an oil bath of 120° to 130° C. for about 2 hours. After the completion of the reaction, the reaction mixture was concentrated under a reduced pressure. The obtained residue was columnchromatographed over silica gel column and eluted with an ethyl acetate-triethylamine solvent (30:1) to give 3.75 g of 3-[2-[4-(2-ethoxyphenyl)-1-piperazinyl]-ethyl]-4(3H)-quinazolone as an oil (yield: 99.2%).

reactant | 2H-3,1-benzoxazine-2,4-(1H)-dione | 1.63 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | ethyl orthoformate | 1.78 g | C(OCC)([O-])[O-]
reactant | 4-(2-ethoxyphenyl)-1-(2-aminoethyl)piperazine | 2.49 g | C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCN | C14H23N3O
product | 3-[2-[4-(2-ethoxyphenyl)-1-piperazinyl]-ethyl]-4(3H)-quinazolone | 3.75 g, yield: 99.2% | C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCN1C=NC2=CC=CC=C2C1=O | C22H26N4O2
